US08669266B2
(i) 4-((R)-2-tert-Butoxycarbonylamino-3-fluoro-propionyl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 150 mg (R)-2-tert-Butoxycarbonylamino-3-fluoro-propionic acid were added 0.18 ml N-ethylmorpholine, 237 mg TOTU and 115 mg 1-ethoxycarbonylpiperazine. After stirring for 12 h the reaction mixture was diluted with ethyl acetate and washed with aqueous LiCl (4%), 0.1 M HCl, saturated aqueous NaHCO3 and brine. The crude product obtained was used without further purification. Yield: 160 mg.

reactant | (R)-2-tert-Butoxycarbonylamino-3-fluoro-propionic acid | 150 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CF | C8H14FNO4
reactant | N-ethylmorpholine | 0.18 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 237 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 1-ethoxycarbonylpiperazine | 115 mg | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-((R)-2-tert-Butoxycarbonylamino-3-fluoro-propionyl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CF)NC(=O)OC(C)(C)C)=O | C15H26FN3O5
